US05436229
A) N-Cbz-cis-4-tosyl-D-proline methyl ester
A solution of 20 g (71.6 mmol) of N-Cbz-cis-4-hydroxy-D-proline methyl ester, 15 mL (107 mmol) of triethylamine and 0.4 g (3.3 mmol) of 4-dimethylaminopyridine in 200 mL of CHCl3 was treated with 15.1 g (79.2 mmol) of p-toluenesulfonyl chloride in portions. The reaction was stirred at room temperature for 18 hours and was washed successively with 100 mL of H2O, 100 mL of 1N aqueous citric acid, and 100 mL of H2O. The organic fraction was dried over Na2SO4 and evaporated in vacuo to give 31.4 g of an oil which was purified by flash chromatography (SiO2 ; 50 percent EtOAc in hexanes) to afford 18.2 g (42 mmol; 59 percent) of the title compound as a white solid.

reactant | N-Cbz-cis-4-hydroxy-D-proline methyl ester | 71.6 mmol, 20 g | COC([C@@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1)=O | C14H17NO5
reactant | triethylamine | 107 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 79.2 mmol, 15.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 3.3 mmol, 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Cbz-cis-4-tosyl-D-proline methyl ester | 31.4 g | COC([C@@H]1N(C[C@@H](C1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1)=O | C21H23NO6S
